US04716248
5.0 Parts of 2-amino-6-(4-aminophenyl)-6-methylheptane dissolved in 68 parts of 1N aqueous hydrochloric acid were shaken at room temperature and atmospheric pressure with hydrogen in the presence of 0.5 parts of Nishimura catalyst (rhodium-platinum oxides). Hydrogen uptake ceased at 105% of theory and the solution was filtered free of catalyst and treated with sodium hydroxide solution to give an oil which was isolated with ether. After removing the ether the residue was distilled to give 4.0 parts of cis and trans-2-amino-6-(4-aminocyclohexyl)-6-methyl-heptane b0.3 120°-9° with the following percentage composition by weight.

reactant | 2-amino-6-(4-aminophenyl)-6-methylheptane | NC(C)CCCC(C)(C)C1=CC=C(C=C1)N | C14H24N2
reactant | hydrogen | [H][H] | H2
reactant | ether | CCOCC | C4H10O
solvent | hydrochloric acid | 1N | Cl | ClH
product | trans-2-amino-6-(4-aminocyclohexyl)-6-methyl-heptane | NC(C)CCCC(C)(C)[C@@H]1CC[C@H](CC1)N | C14H30N2
